US05360809
5-Amino-1-(3'-methoxy-3-biphenylyl)-benzimidazole hydrochloride (56a).
A mixture of 1-(3'-methoxy-3-biphenylyl)-5-nitrobenzimidazole (1.5 g, 4.9 mmol), tin(ll)chloride (2.7 g), conc. hydrochloric acid (20 ml), and ethanol (10 ml) was refluxed for 2 hours and then neutralized by the addition of concentrated ammonia and filtered through celite. The filter cake was washed with ethanol and then methylene chloride. The phases of the filtrate were separated and the aqueous phase was extracted twice with methylene chloride. The combined organic phases were washed with water, dried and the product was precipitated as the hydrochloride. Yield: 1.5 g, 4.3 mmol, 88%. mp 195°-200° C. (decomposition).

reactant | 1-(3'-methoxy-3-biphenylyl)-5-nitrobenzimidazole | 4.9 mmol, 1.5 g | COC=1C=C(C=CC1)C1=CC(=CC=C1)N1C=NC2=C1C=CC(=C2)[N+](=O)[O-] | C20H15N3O3
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Amino-1-(3'-methoxy-3-biphenylyl)-benzimidazole hydrochloride | Cl.NC1=CC2=C(N(C=N2)C=2C=C(C=CC2)C2=CC(=CC=C2)OC)C=C1 | InChI=1S/C20H17N3O.ClH/c1-24-18-7-3-5-15(11-18)14-4-2-6-17(10-14)23-13-22-19-12-16(21)8-9-20(19)23;/h2-13H,21H2,1H3;1H
